US05703246
Stilbene oxide
To a mixture of rhodium (II) acetate (0.0021 g), dichloromethane (4 ml) and benzaldehyde (0.051 ml) was added 1-methoxy-4-methylthiobenzene (0.0036 ml). To this mixture was added, with stirring, a solution of phenyldiazomethane (1 mmol in tert-butylmethyl ether (8 ml)) over 19 hours. The reaction mixture was stirred or a further 5 hours after which the mixture was allowed to stand at room temperature for 2 days. The solvent was removed in vacuo and the residue chromatographed on silica using dichloromethane:hexane 2:3 as eluant. The title compound was obtained as a colourless oil (0.0713 g, 22.6% yield).

reactant | benzaldehyde | 0.051 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | 1-methoxy-4-methylthiobenzene | 0.0036 ml | COC1=CC=C(C=C1)SC | C8H10OS
reactant | phenyldiazomethane | 1 mmol, 8 ml | C1(=CC=CC=C1)C=[N+]=[N-] | C7H6N2
catalyst | rhodium (II) acetate | 0.0021 g | C(C)(=O)[O-].[Rh+2].C(C)(=O)[O-]
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | Stilbene oxide | C1(=CC=CC=C1)C1C(C2=CC=CC=C2)O1 | C14H12O
